US04895849
Synthesis of dl-5-chloro-6-ethyl-4-[α-ethyl-4-(cyclopropylmethoxy)benzyl]aminopyrimidine (Compound No. 111)
To a solution of 1.1 g of dl-5-chloro-6-ethyl-4-(α-ethyl-4-hydroxybenzyl)aminopyrimidine dissolved in 30 ml of N,N-dimethylformamide was added 0.4 g of cyclopropylmethyl chloride, and the mixture was stirred at 90° to 100° C. for 8 hours. After completion of the reaction, the reaction mixture was charged into water and the separated oily product was extracted with ethyl acetate. The extract was washed with water, dried with anhydrous magnesium sulfate, and then the solvent was distilled off under reduced pressure. The oil product obtained was isolated by column chromatography (Wako Gel C-200, trade name, eluted with toluene: ethyl acetate=7:1) to give 0.5 g of the desired product as pale yellow liquid.

reactant | dl-5 chloro-6-ethyl-4-(α-ethyl-4-hydroxybenzyl)aminopyrimidine | 1.1 g | COC1=C(C=CC(=C1)CNCCCNCCCCNCCCN)O.ClC1=NC(=CC(=N1)NC(C1=CC=C(C=C1)O)CC)CC
reactant | cyclopropylmethyl chloride | 0.4 g | C1(CC1)CCl | C4H7Cl
reactant | water | O | H2O
reactant | toluene | C1(=CC=CC=C1)C | C7H8
solvent | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | dl-5 chloro-6-ethyl-4-[α-ethyl-4-(cyclopropylmethoxy)benzyl]aminopyrimidine | 0.5 g | COC1=C(C=CC(=C1)CNCCCNCCCCNCCCN)O.ClC1=NC(=CC(=N1)NC(C1=CC=C(C=C1)OCC1CC1)CC)CC | InChI=1S/C19H24ClN3O.C18H34N4O2/c1-3-15-11-18(23-19(20)21-15)22-17(4-2)14-7-9-16(10-8-14)24-12-13-5-6-13;1-24-18-14-16(6-7-17(18)23)15-22-13-5-12-21-10-3-2-9-20-11-4-8-19/h7-11,13,17H,3-6,12H2,1-2H3,(H,21,22,23);6-7,14,20-23H,2-5,8-13,15,19H2,1H3
